US05610174
Synthesis of (±)-6-Methoxy-5-nitro-3,4-dihydronaphthalene-1 -carbonitrile.
A solution of 6-methoxy-5-nitro-1-trimethylsilyloxy-l,2,3,4-tetrahydronaphthalene-1-carbonitrile (1.3 g, 4.0 mmol) and AcCl (1.0 ml) in 20 ml AcOH was stirred for 2 h at 80°-100° C. The resulting reaction mixture was concentrated in vacuo to yield the desired product as a colorless oil (0.86 g, 4.0 mmol, 96% for two steps), which was subjected to the following step without any further purification. 1H NMR (300 MHz, CDCl3):δ 2.48 (dt, 2H, J=2.3, 6.7 Hz), 2.78 (t, 2H, J=8.9 Hz ), 3.89 (s, 3H), 6.82 (t, 1H, J=2.3 Hz), 6.92 (d, 1H, J=8.9 Hz), 7.53 (d, 1H, J=8.9 Hz).

reactant | 6-methoxy-5-nitro-1-trimethylsilyloxy-l,2,3,4-tetrahydronaphthalene-1-carbonitrile | 4.0 mmol, 1.3 g | COC=1C(=C2CCCC(C2=CC1)(C#N)O[Si](C)(C)C)[N+](=O)[O-] | C15H20N2O4Si
reactant | AcCl | 1.0 ml | C(=O)(C)Cl | C2H3ClO
solvent | AcOH | 20 ml | CC(=O)O | C2H4O2
product | (±)-6-Methoxy-5-nitro-3,4-dihydronaphthalene-1 -carbonitrile | 4.0 mmol, 0.86 g, 96% | COC=1C(=C2CCC=C(C2=CC1)C#N)[N+](=O)[O-] | C12H10N2O3
